ADDER- 4 BIT ALL-NAND-GATE BINARY ADDER

* use BSIM3 model with default parameters
.model n1 nmos level=49 version=3.3.0
.model p1 pmos level=49 version=3.3.0

*** SUBCIRCUIT DEFINITIONS
.SUBCKT NAND in1 in2 out VDD

* NODES: INPUT(2), OUTPUT, VCC
M1 out in2 Vdd Vdd p1 W=7.5u L=0.35u pd=13.5u ad=22.5p ps=13.5u as=22.5p
M2 net.1 in2 0 0 n1 W=3u L=0.35u pd=9u ad=9p ps=9u as=9p
M3 out in1 Vdd Vdd p1 W=7.5u L=0.35u pd=13.5u ad=22.5p ps=13.5u as=22.5p
M4 out in1 net.1 0 n1 W=3u L=0.35u pd=9u ad=9p ps=9u as=9p
.ENDS NAND

.SUBCKT ONEBIT 1 2 3 4 5 6 
X2 1 7 8 6 NAND
X3 2 7 9 6 NAND
X4 8 9 10 6 NAND
X5 3 10 11 6 NAND
X6 3 11 12 6 NAND
X7 10 11 13 6 NAND
X8 12 13 4 6 NAND
X9 11 7 5 6 NAND
.ENDS ONEBIT

.SUBCKT TWOBIT 1 2 3 4 5 6 7 8 9

* NODES: INPUT- BIT0(2)/BIT1(2),OUTPUT- BIT0/BIT1,CARRY-IN,CARRY-OUT,VCC
X1 1 2 7 5 10 9 ONEBIT
X2 3 4 10 6 8 9 ONEBIT
.ENDS TWOBIT

.SUBCKT FOURBIT 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15

*NODES: INPUT- BIT0(2) / BIT1(2) / BIT2(2) / BIT3(2),OUTPUT- BIT0 / BIT1 / BIT2 / BIT3, CARRY-IN,CARRY-OUT, VCC

X1 1 2 3 4 9 10 13 16 15 TWOBIT
X2 5 6 7 8 11 12 16 14 15 TWOBIT
.ENDS FOURBIT

*** POWER
VCC 99 0 DC 3.3V

*** INPUTS
VIN1A 1 0 DC 0 PULSE(0 3 0 5NS 5NS 20NS 50NS)
VIN1B 2 0 DC 0 PULSE(0 3 0 5NS 5NS 30NS 100NS)
VIN2A 3 0 DC 0 PULSE(0 3 0 5NS 5NS 50NS 200NS)
VIN2B 4 0 DC 0 PULSE(0 3 0 5NS 5NS 90NS 400NS)
VIN3A 5 0 DC 0 PULSE(0 3 0 5NS 5NS 170NS 800NS)
VIN3B 6 0 DC 0 PULSE(0 3 0 5NS 5NS 330NS 1600NS)
VIN4A 7 0 DC 0 PULSE(0 3 0 5NS 5NS 650NS 3200NS)
VIN4B 8 0 DC 0 PULSE(0 3 0 5NS 5NS 1290NS 6400NS)

*** DEFINE NOMINAL CIRCUIT
X1 1 2 3 4 5 6 7 8 9 10 11 12 0 13 99 FOURBIT

.option acct
.save V(1) V(2) V(3) V(4) V(5) V(6) V(7) V(8) $ INPUTS
.save V(9) V(10) V(11) V(12) V(13) $ OUTPUTS
.TRAN 1NS 6400NS

.control
run
plot v(1) v(2) v(3) v(4) v(5) v(6) v(7) v(8)
plot v(9) v(10) v(11) v(12) v(13)
.endc

.END