* Common-emitter BJT amplifier using external 2N2222 model
* Supply = 12 V, target gain = 18 to 22 V/V, load = 10k

.model 2N2222 NPN(IS=14.34f BF=400 Vaf=74.03 Ikr=0 Isc=0 Ise=14.34f Ne=1.307 Br=6.092 + Nc=2 Var=0 Ikr=0 Re=0 Rb=10 Rc=1 Cje=22.01p Vje=.75 Mje=.377 + Cjc=7.306p Vjc=.75 Mjc=.3416 Tf=411.1p Xtf=3 Vtf=1.7 Itf=.6 + Tr=46.91n Eg=1.14 Xti=3)

VCC vcc 0 DC 12
VIN vin_src 0 SIN(0 10m 1k) AC 1

* Input coupling
CIN vin_src base 2.2u

* Bias divider
R1 vcc base 82k
R2 base 0 10k

* Collector and emitter network
RC vcc collector 10k
RE1 emitter emit_ac 180
RE2 emit_ac 0 1k
CE emit_ac 0 100u

* BJT
* If your model name is different, replace 2N2222 below with the exact model name in the .lib file
Q1 collector base emitter 2N2222

* Output coupling and load
COUT collector vout 10u
RL vout 0 10k

.control


set filetype=ascii

op
print v(base) v(emitter) v(collector) v(vout)
print v(base)-v(emitter)
print v(collector)-v(emitter)
print @q1[ic] @q1[ib]


tran 2u 8m 5m
plot v(vin_src) v(vout)

ac dec 100 10 100Meg
let gain_db = db(v(vout)/v(vin_src))
let phase_deg = 180/pi*cph(v(vout)/v(vin_src))
plot gain_db 
plot phase_deg


meas ac gain_1k_db FIND gain_db AT=1k
meas ac phase_1k_deg FIND phase_deg AT=1k

.endc

.end