* =========================================================
* Single-Stage CMOS Amplifier
* NMOS common-source amplifier with PMOS active load
* =========================================================

.option savecurrents
.temp 27

* Supply
VDD vdd 0 5

* Input source
VIN in 0 DC 2.0 AC 1 SIN(2.0 0.01 1k)

* PMOS gate bias
VBIAS bias 0 3.0

* Amplifier core
M1 out in   0   0   NMOS1 W=20u L=1u
M2 out bias vdd vdd PMOS1 W=40u L=1u

* Load
CLOAD out 0 10p

* Models
.model NMOS1 NMOS LEVEL=1 VTO=1.0 KP=120u LAMBDA=0.02
.model PMOS1 PMOS LEVEL=1 VTO=-1.0 KP=60u  LAMBDA=0.02

.control
echo "================ OPERATING POINT ================"
op
print v(in) v(out) v(bias)
print @m1[id] @m1[vgs] @m1[vds]
print @m2[id] @m2[vgs] @m2[vds]

echo "================ TRANSIENT ======================"
tran 0.1us 5ms
plot v(in) v(out)

echo "================ AC ANALYSIS ===================="
ac dec 100 10 100Meg
plot db(v(out)) phase(v(out))

echo "================ MEASUREMENTS ==================="
* safer: measure raw output magnitude at 1 kHz
meas ac vout_1k find vm(out) at=1k
let gain_db_1k = 20*log10(vout_1k)
print gain_db_1k

* if AC source magnitude is 1, then |gain| = |V(out)|
print v(out)

.endc

.end