* bridge_rectifier_rc_sweep
* Sensitivity sweep for 0.5x, 1x, and 2x calculated capacitor value

* Diode model

.model D1N4001 D (IS=76.9p RS=42.0m BV=50.0 IBV=5.00u CJO=40.0p VJ=0.6 M=0.333 TT=4.32u)

.param VPK=10
.param Freq=50
.param RLOAD=1k
.param CBASE=1000u
.param CSMOOTH={CBASE}

Vin ac1 ac2 SIN(0 {VPK} {Freq})

D1 ac1 vout D1N4001
D2 ac2 vout D1N4001
D3 0 ac1 D1N4001
D4 0 ac2 D1N4001

C1 vout 0 {CSMOOTH}
Rload vout 0 {RLOAD}

.tran 100u 500m 

.control
set filetype=ascii

echo ==============================
echo Capacitor sensitivity sweep
echo ==============================

foreach cval 500u 1000u 2000u
  alterparam CSMOOTH = $cval
  reset
  run

  meas tran VMAX max v(vout) from=300m to=500m
  meas tran VMIN min v(vout) from=300m to=500m
  meas tran VAVG avg v(vout) from=300m to=500m

  let VRIPPLE = VMAX - VMIN
  let RIPPLE_PERCENT = 100*VRIPPLE/VAVG

  echo ---- C = $cval ----
  print VAVG
  print VRIPPLE
  print RIPPLE_PERCENT

  wrdata bridge_rectifier.csv time v(vout)
end

.endc

.end