* bridge_rectifier_rc_combined.cir
* Full-wave bridge rectifier with RC smoothing
* Vin = 10 Vpeak, 50 Hz
* Load = 1 kOhm
* Target ripple = 1 %
*
* Estimated capacitor:
* C ≈ 1 / (Rload * 2*fline * ripple_fraction)
* C ≈ 1 / (1000 * 100 * 0.01)
* C ≈ 1000 uF

***************************************
* Diode model
***************************************
.model D1N4001 D (IS=76.9p RS=42.0m BV=50.0 IBV=5.00u CJO=40.0p VJ=0.6 M=0.333 TT=4.32u)

***************************************
* Parameters
***************************************
.param VPK=10
.param FLINE=50
.param RLOAD=1k
.param CBASE=1000u
.param CSMOOTH={CBASE}

***************************************
* Input source
***************************************
Vin ac1 ac2 SIN(0 {VPK} {FLINE})

***************************************
* Full-wave bridge rectifier
***************************************
D1 ac1 vout D1N4001
D2 ac2 vout D1N4001
D3 0 ac1 D1N4001
D4 0 ac2 D1N4001

***************************************
* RC smoothing and load
***************************************
C1 vout 0 {CSMOOTH} IC=0
Rload vout 0 {RLOAD}

***************************************
* Transient analysis
***************************************
.tran 100u 500m

.control
set filetype=ascii

echo ==========================================
echo Full-wave bridge rectifier RC ripple test
echo Vin = 10 Vpeak, 50 Hz, Rload = 1 kOhm
echo Ripple measured from 300 ms to 500 ms
echo ==========================================

foreach cval 500u 1000u 2000u

  alterparam CSMOOTH = $cval
  reset
  run

  meas tran VMAX max v(vout) from=300m to=500m
  meas tran VMIN min v(vout) from=300m to=500m
  meas tran VAVG avg v(vout) from=300m to=500m

  let VRIPPLE = VMAX - VMIN
  let RIPPLE_PERCENT = 100*VRIPPLE/VAVG

  echo ------------------------------------------
  echo Capacitor value = $cval
  print VAVG
  print VRIPPLE
  print RIPPLE_PERCENT
  echo ------------------------------------------

  wrdata bridge_rectifier.csv time v(vout) v(ac1) v(ac2)


end

* Final nominal plot for calculated capacitor value
alterparam CSMOOTH = 1000u
reset
run

plot v(vout)

.endc

.end