* ============================================================
* Transistor RC Phase-Shift Oscillator using external 2n3904.lib
* Required 2N3904 subcircuit pin order: C B E
* ============================================================

.include ./2n3904.lib

* ============================================================
* DC SUPPLY SECTION
* ============================================================
VCC vcc 0 DC 12

* ============================================================
* COMMON-EMITTER AMPLIFIER SECTION
* ============================================================
XQ1 collector base emitter 2N3904

RC vcc collector 6.8k

* Small unbypassed emitter resistance improves waveform shape.
* Bypassed part gives high AC gain for oscillation startup.
RE1 emitter emit_low 47
RE2 emit_low 0 1k
CE  emit_low 0 100u

* ============================================================
* BASE BIASING SECTION
* Bias is chosen while considering the final RC feedback resistor.
* ============================================================
RB1 vcc base 100k
RB2 base 0 68k

* ============================================================
* THREE-STAGE RC PHASE-SHIFT FEEDBACK NETWORK
* Designed around R = 22k, C = 4.7nF.
* Ideal oscillation estimate:
* f ≈ 1 / (2*pi*R*C*sqrt(6)) ≈ 628 Hz
* ============================================================
CPS1 collector fb1 4.7n
RPS1 fb1 0 22k

CPS2 fb1 fb2 4.7n
RPS2 fb2 0 22k

CPS3 fb2 base 4.7n
RPS3 base 0 22k

* Small startup kick so deterministic SPICE leaves the DC equilibrium.
IKICK collector 0 PULSE(0 1u 1m 1u 1u 100u 1s)

* ============================================================
* OUTPUT SECTION
* OSC_OUT is the required nonnumeric output node.
* ============================================================
COUT collector OSC_OUT 1u
ROUT OSC_OUT 0 100k

* ============================================================
* SIMULATION AND OUTPUT COMMANDS
* ============================================================
.control
save v(OSC_OUT) v(collector) v(base) v(fb1) v(fb2) v(emitter)

tran 10u 2s

plot v(OSC_OUT) xlimit 0 0.2
plot v(OSC_OUT) xlimit 1.90 1.92

meas tran vmax MAX v(OSC_OUT) FROM=1.5s TO=2s
meas tran vmin MIN v(OSC_OUT) FROM=1.5s TO=2s
meas tran vpp PP v(OSC_OUT) FROM=1.5s TO=2s

meas tran period TRIG v(OSC_OUT) VAL=0 RISE=1000 TARG v(OSC_OUT) VAL=0 RISE=1001
let freq = 1/period
print freq

write rc_phase_shift_oscillator.raw
wrdata rc_phase_shift_oscillator.csv time v(OSC_OUT) v(collector) v(base) v(fb1) v(fb2)

.endc

.end