* =========================================================
* 4-bit Behavioral SAR ADC in NGSpice
* ---------------------------------------------------------
* Blocks:
* Vin -> Sample/Hold (simplified as direct held input)
*      -> Behavioral DAC
*      -> Ideal comparator
*      -> SAR bit trial timing
*
* This version uses time-windowed bit decisions.
* It is meant for learning the SAR process.
* =========================================================

.param VREF=1.0
.param VINDC=0.68

* Input signal
Vin in 0 DC {VINDC}

* ---------------------------------------------------------
* Clocking windows for 4 SAR decisions
* Each bit gets one time slot
* ---------------------------------------------------------
Vclk clk 0 PULSE(0 1 0n 1n 1n 10n 20n)

* Bit trial windows
Vb3win b3win 0 PULSE(0 1 1n 1n 1n 4n 40n)
Vb2win b2win 0 PULSE(0 1 11n 1n 1n 4n 40n)
Vb1win b1win 0 PULSE(0 1 21n 1n 1n 4n 40n)
Vb0win b0win 0 PULSE(0 1 31n 1n 1n 4n 40n)

* ---------------------------------------------------------
* SAR decision storage nodes
* We use capacitors to hold the logic state approximately
* and behavioral sources to update them during their window
* ---------------------------------------------------------
Cb3 b3 0 1p
Cb2 b2 0 1p
Cb1 b1 0 1p
Cb0 b0 0 1p

Rb3 b3 0 1G
Rb2 b2 0 1G
Rb1 b1 0 1G
Rb0 b0 0 1G

* ---------------------------------------------------------
* DAC output from SAR bits
* 4-bit binary weighted DAC
* DAC = VREF*(b3/2 + b2/4 + b1/8 + b0/16)
* where each bit node is ~0 or ~1 V
* ---------------------------------------------------------
Bdac vdac 0 V = { VREF*( V(b3)/2 + V(b2)/4 + V(b1)/8 + V(b0)/16 ) }

* Comparator output: high if Vin > Vdac
Bcmp cmp 0 V = { if(V(in) > V(vdac), 1, 0) }

* ---------------------------------------------------------
* SAR update equations
*
* b3 decision:
* during b3 window, try MSB = 1 if cmp says Vin > trial DAC
*
* For later bits, keep old higher bits, try current bit = 1
* then decide by comparator
* ---------------------------------------------------------

* Trial DACs for each stage
Btrial3 trial3 0 V = { VREF*(1/2) }

Btrial2 trial2 0 V = { VREF*( V(b3)/2 + 1/4 ) }

Btrial1 trial1 0 V = { VREF*( V(b3)/2 + V(b2)/4 + 1/8 ) }

Btrial0 trial0 0 V = { VREF*( V(b3)/2 + V(b2)/4 + V(b1)/8 + 1/16 ) }

* Stage comparators
Bcmp3 cmp3 0 V = { if(V(in) > V(trial3), 1, 0) }
Bcmp2 cmp2 0 V = { if(V(in) > V(trial2), 1, 0) }
Bcmp1 cmp1 0 V = { if(V(in) > V(trial1), 1, 0) }
Bcmp0 cmp0 0 V = { if(V(in) > V(trial0), 1, 0) }

* Update bit nodes only in their active windows
Bset3 b3 0 V = { if(V(b3win)>0.5, V(cmp3), V(b3)) }
Bset2 b2 0 V = { if(V(b2win)>0.5, V(cmp2), V(b2)) }
Bset1 b1 0 V = { if(V(b1win)>0.5, V(cmp1), V(b1)) }
Bset0 b0 0 V = { if(V(b0win)>0.5, V(cmp0), V(b0)) }

* Small resistors to avoid floating-source issues
Riso3 b3 0 1MEG
Riso2 b2 0 1MEG
Riso1 b1 0 1MEG
Riso0 b0 0 1MEG

* ---------------------------------------------------------
* Outputs for observation
* ---------------------------------------------------------
Bcode code 0 V = { 8*V(b3) + 4*V(b2) + 2*V(b1) + V(b0) }

.control
tran 0.1n 40n
plot v(in) v(trial3) v(trial2) v(trial1) v(trial0)
plot v(b3) v(b2)+1.5 v(b1)+3 v(b0)+4.5
plot v(vdac) v(in)
print v(b3) v(b2) v(b1) v(b0) v(code)
.endc

.end