
* Voltage scaling stage for microcontroller input
V Vin 0 DC 12

****************************************************
* Divider design
* Rtop = 10 kOhm
* Rbottom = 6.8 kOhm
*
* Ideal no-load output:
* Vout = Vin * Rbottom / (Rtop + Rbottom)
*      = 12 * 6.8k / (10k + 6.8k)
*      = 4.857 V
****************************************************

* -------- No-load condition --------
* Load is effectively disconnected using a very large resistor
R1_NL vin vout_no_load 10k
R2_NL vout_no_load 0 6.8k
RLOAD_NL vout_no_load 0 1G

* -------- Loaded condition --------
* Load selected inside required range: 4.7 kOhm
R1_L vin vout_loaded 10k
R2_L vout_loaded 0 6.8k
RLOAD_L vout_loaded 0 4.7k

* -------- Load sweep circuit --------
* Used to evaluate Vout variation from 1 kOhm to 10 kOhm
R1_SW vin vout_sweep 10k
R2_SW vout_sweep 0 6.8k
RLOAD_SW vout_sweep 0 1k

.op

.control
run

echo ==============================
echo DC Operating Point Results
echo ==============================
print v(vin)
print v(vout_no_load)
print v(vout_loaded)

echo ==============================
echo Load Sweep: RLOAD = 1k to 10k
echo ==============================
dc RLOAD_SW 1k 10k 1k
print v(vout_sweep)

plot v(vout_sweep)

.endc

.end