.include "nmos_t.txt"
.include "pmos_t.txt"

.subckt cmos_inverter_3p3 VIN VOUT AVDD AGND

XMN1 VOUT VIN AGND AGND nmos_3p3 W=8u L=0.28u
XMP1 VOUT VIN AVDD AVDD pmos_3p3 W=8u L=0.28u

.ends cmos_inverter_3p3